US07105544B2
N-{3-[1-(3-{[2-(4-CHLOROPHENYL)PROPANOYL]AMINO}PROPYL)-4-PIPERIDINYL]PHENYL}CYCLOPROPANECARBOXAMIDE
Example 116 was prepared from 2-(4-chlorophenyl)propanoic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}cyclopropanecarboxamide according to the procedures described in Scheme 9: 1H NMR (400 MHz, CDCl3) δ 8.15–7.95 (br, 1H), 7.63–7.44 (br, 1H), 7.39–7.12 (m, 7H), 6.85 (d, 1H, J=6.8 Hz), 3.74–3.55 (m, 1H), 3.45–3.22 (m, 2H), 3.22–3.12 (m, 1H), 3.12–3.00 (m, 1H), 2.66–2.40 (m, 3H), 2.29–2.09 (m, 2H), 1.92–1.63 (m, 6H), 1.64–1.51 (m, 1H), 1.47 (d, 3H, J=6.8 Hz), 1.18–0.98 (m, 2H), 0.91–0.74 (m, 2H); ESMS m/e: 468.2 (M+H)+; Anal. Calc. for (HCl salt) C27H35Cl2N3O2.0.28CHCl3: C, 60.91; H, 6.61; N, 7.81; Found: C, 60.66; H, 6.90; N, 8.19.

reactant | 2-(4-chlorophenyl)propanoic acid | ClC1=CC=C(C=C1)C(C(=O)O)C | C9H9ClO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}cyclopropanecarboxamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(=O)C1CC1 | C18H27N3O
product | N-{3-[1-(3-{[2-(4-CHLOROPHENYL)PROPANOYL]AMINO}PROPYL)-4-PIPERIDINYL]PHENYL}CYCLOPROPANECARBOXAMIDE | ClC1=CC=C(C=C1)C(C(=O)NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(=O)C1CC1)C | C27H34ClN3O2
